Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___.
 
Chief Complaint:
dysuria
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with PMH of CKD stage III baseline creatinine 
1.5 of unclear etiology and gout presenting with dysuria, 
hematuria, fevers, flank pain and rectal pain.  He was seen in 
clinic on ___ for sore throat, prescribed amoxicillin and 
cultures came back positive for strep. He has been taking the 
amoxicillin and his sore throat resolved.  Two days ago began 
having severe dysuria, foul smelling urine, intermittent 
hematuria, right flank pain, fevers, nausea and rectal pain when 
he defecates.  Went to urgent care clinic at ___ 
yesterday, urinalysis and urine culture sent, unable to send 
blood work as lab was closed.  He was initially prescribed 
prednisone 40 mg, augmentin and prilosec which he took.  He was 
instructed to go to ED but went home.  His fevers worsened and 
came to ED.  In ED he was febrile to 101, CT A/P showed no acute 
abnormalities.  WBC elevated to 30, urinalysis grossly positive, 
given ceftriaxone.  Had 1 episode of loose stools today.  
Currently he says he feels much better, denies abdominal or 
flank pain, nausea.  Denies rash, joint pains.

ROS: As above, ten point ROS otherwise negative. 
 
Past Medical History:
CKD stage III of unclear etiology (followed by Dr. ___, 
___ for chronic glomerulonephritis, was discussing renal 
biopsy)
Gout
HL
OSA
Left wrist knife injury during robbery requiring surgery in ___ 
___
 
___ History:
___
Family History:
Denies any family history of heart disease or cancer
 
Physical Exam:
Admission PE
VS: 98.4 HR 66 BP 119/81 RR 18 97% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
Resp: CTAB no w/w/r
CV: RRR nl s1s2 no m/r/g
Abd: soft, mild suprapubic tenderness, ND +BS
GU: normal genitalia, no lesions or penile discharge
Rectal: Tender boggy prostate
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout

Discharge PE
VS: 98.6 HR 71 BP 106/70 RR 18 98% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
Resp: CTAB no w/w/r
CV: RRR nl s1s2 no m/r/g
Abd: soft, mild suprapubic tenderness, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
 
Pertinent Results:
___ 11:30AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-600 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 11:30AM URINE  RBC-14* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-0
___ 11:24AM   GLUCOSE-107* UREA N-30* CREAT-1.8* SODIUM-135 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-22 ANION GAP-19
___ 11:24AM   WBC-30.0*# RBC-5.07 HGB-14.5 HCT-41.5 MCV-82 
MCH-28.6 MCHC-34.9 RDW-13.7

CT A/P ___:
IMPRESSION: 
1.  No etiology for the patient's hematuria identified. No 
evidence of 
urolithiasis, hydronephrosis, or hydroureter. 
2. 2 mm nodule in the left lower lobe. 

COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:10    24.2* 4.70 13.5* 39.6* 84 28.7 34.1 13.0 245 

RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 06:10    771 26* 1.4* 138 4.2 ___ 
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ year old male with PMH of CKD stage III baseline creatinine 
1.5 of unclear etiology and gout presenting with dysuria, 
hematuria, fevers, flank pain and rectal pain.

# ID: Recent strep throat treated with amoxicillin.  Now 
presenting with fevers, severe leukocytosis (prednisone given 
day prior to admission likely contributing), dysuria, 
intermittent hematuria, flank pain and tender prostate. CT A/P 
negative for any acute process.  Concern for acute prostatitis 
and urinary infection.  Urine culture grew E. coli.  He was 
given Ceftriaxone IV in ED with significant improvement in his 
symptoms.  E. coli was sensitive to ciprofloxacin and he was 
transitioned to ciprofloxacin.  He was told to discontinue the 
augmentin and prednisone which was prescribed in urgent care.
-6 week course of ciprofloxacin for acute bacterial prostatitis.
-If symptoms do not improve or recur recommend following up with 
urology and consider further prostate imaging.
-GC and chlamydia testing pending but patient low risk.

#Renal: CKD stage III of unclear etiology with outpatient 
work-up concerning for chronic glomerulonephritis.  Creatinine 
was slightly elevated on admission but returned to his baseline 
at 1.4.  He had persistent proteinuria at the same level when it 
was checked in ___.  He had been prescribed lisinopril 
but never started it.  Started on lisinopril here and he 
tolerated it well.
-Continue lisinopril 2.5 mg daily.
-Follow-up with nephrologist in ___ weeks

#Gout: No acute issues, he has not been taking allopurinol as he 
had thought it may damage his kidneys. Uric acid level checked 
and elevated at 10. 
-Restarting allopurinol ___ mg daily, counselled on importance 
of taking it daily and safety of the medication.

#Lung nodule: 2 mm nodule in the left lower lobe found on CT 
A/P.  He is a former smoker and a followup CT scan in ___ year was 
recommended to follow this nodule.

#FEN/PPX: Regular diet, ambulatory

Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 40 mg PO DAILY 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
3. Omeprazole 20 mg PO BID 
4. Allopurinol ___ mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Ciprofloxacin HCl 500 mg PO Q12H Duration: 6 Weeks 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*84 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute bacterial prostatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with fevers, pain with urination, blood in 
urine and rectal pain.  You were found to have an infection of 
your prostate and urinary tract.  Your urine cultures grew a 
bacteria called E. Coli.  You improved with antibiotics and are 
being prescribed a 6 week course of ciprofloxacin for your 
infection.  You should follow-up closely with your primary care 
physician and they can refer you to a urologist if your symptoms 
do not improve.

You have chronic kidney disease and your kidney doctor wanted 
you to start lisinopril to help decrease the protein in your 
urine.  You were started on lisinopril 2.5 mg daily.  You were 
also restarted on allopurinol to help prevent gout.
 
Followup Instructions:
___